USRE028939
5-bromo-2-nitroaniline is converted into 5-bromo-2-nitrobenzonitrile by treating the aniline derivative with sodium nitrite and hydrochloric acid and reacting the resulting diazonium salt with cuprous cyanide as in Example 2. The nitro group is reduced with stannous chloride and hydrochloric acid to give 4-bromo-2-cyanoaniline.

reactant | 5-bromo-2-nitroaniline | BrC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | 5-bromo-2-nitrobenzonitrile | BrC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C7H3BrN2O2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 4-bromo-2-cyanoaniline | BrC1=CC(=C(N)C=C1)C#N | C7H5BrN2
